US06960575B2
Isopropyl (2RS,3S)-3-(tert-butoxycarbonyl)amino-2-hydroxy-4-phenylbutyrate (Reference compound No. 18-1)
A solution of di-tert-butyl dicarbonate (101 mg) in tetrahydrofuran (1 ml) is added to a solution of isopropyl (2RS,3S)-3-amino-2-hydroxy-4-phenylbutyrate (100 mg, Reference compound No. 4-1) in tetrahydrofuran (1 ml), and the mixture is stirred for 3.5 hours. The reaction mixture is concentrated under reduced pressure, and the resulting residue is purified by silica gel column chromatography to give the titled reference compound (121 mg).

reactant | di-tert-butyl dicarbonate | 101 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | isopropyl (2RS,3S)-3-amino-2-hydroxy-4-phenylbutyrate | N[C@H](C(C(=O)OC(C)C)O)CC1=CC=CC=C1 | C13H19NO3
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | Isopropyl (2RS,3S)-3-(tert-butoxycarbonyl)amino-2-hydroxy-4-phenylbutyrate | 121 mg | C(C)(C)(C)OC(=O)N[C@H](C(C(=O)OC(C)C)O)CC1=CC=CC=C1 | C18H27NO5
